### PR TITLE
ReplyPush_corres

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Leaving aside a sorried corres lemma for `donate_sched_context`, this proves `ReplyPush_corres`.

Ideally I would prove that sorried lemma, but I think it's more important to periodically converge.

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -3046,7 +3046,7 @@ lemma thread_set_valid_tcb[wp]:
   by (wpsimp wp: get_object_wp simp: thread_set_def)
 
 lemma thread_set_valid_tcbs[wp]:
-  "\<lbrace>valid_tcbs and tcb_at tptr and
+ "\<lbrace>valid_tcbs and tcb_at tptr and
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3049]: Isn't the original indentation correct?

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+  sorry (* awaiting spec change confirmation *)
+
+lemma replyNext_update_corres_Head:
+  "corres dc (reply_at rptr) (reply_at' rptr)
+   (set_reply_obj_ref reply_sc_update rptr (Some scptr))
+   (do reply <- getReply rptr;
+       setReply rptr (replyNext_update (\<lambda>_. Some (Head scptr)) reply)
+    od)"
+    unfolding update_sk_obj_ref_def
+  apply (clarsimp simp: )
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3193]: nitpick: indentation and unnecessary `simp: `

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+  done
+
+lemma replyNext_update_corres_Next:
+  "corres dc (reply_at rptr) (reply_at' rptr)
+   (set_reply_obj_ref reply_sc_update rptr None)
+   (do reply <- getReply rptr;
+       setReply rptr (replyNext_update (\<lambda>_. Some (Next scptr)) reply)
+    od)"
+    unfolding update_sk_obj_ref_def
+  apply (clarsimp simp: )
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3208]: nitpick: indentation and unnecessary `simp: `

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+  apply (rule corres_guard_imp)
+  apply (rule corres_split [OF set_reply_corres get_reply_corres])
+  apply (clarsimp simp: reply_relation_def)
+  apply wpsimp+
+  apply (clarsimp simp: obj_at'_def replyPrev_same_def)
+  done
+
+lemma setSchedContext_sc_replies_relation_corres:
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3216]: Should it just be sc_relation in the name of this lemma?

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+  done
+
+(* FIXME RT: move *)
+lemma list_case_when:
+  "(case l of [] \<Rightarrow> return ()
+            | r # x \<Rightarrow> (f r x))
+ = (when (l \<noteq> []) $ f (hd l) (tl l))"
+  by (clarsimp split: list.splits)
+
+lemma heap_list_heap_update_noop:
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3304]: Move to Heap_List.thy?

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+  apply (rule set_reply_corres)
+  apply (clarsimp simp: reply_relation_def )+
+  done
+
+lemma update_sc_reply_stack_update_ko_at'_corres:
+  "corres dc
+     (sc_at ptr and pspace_aligned and pspace_distinct)
+     (ko_at' sc' ptr and (\<lambda>s. heap_list (replyPrevs_of s) X y))
+     (update_sched_context ptr (sc_replies_update (\<lambda>_. y)))
+     (setSchedContext ptr (scReply_update (\<lambda>_. X) sc'))"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3403]: nitpick: more descriptive variable names instead of `X` and `y`. Maybe `reply_ptr` and `replies`?

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+                and pspace_aligned and pspace_distinct and valid_objs)
+             (reply_at' rptr and sc_at' scptr)
+   (bind_sc_reply scptr rptr)
+   (bindScReply scptr rptr)"
+  unfolding bind_sc_reply_def bindScReply_def list_case_when
+  apply (clarsimp simp: liftM_def)
+  apply (rule corres_guard_imp)
+    apply (rule corres_split [OF _ get_sc_corres, where R'="\<lambda>sc. reply_at' rptr and ko_at' sc scptr"])
+    (* This command is the lynch-pin. This does all useful state-relation lifting
+         and prepares the rest of the argument*)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3455]: Nice comment!

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+        apply (drule_tac x=scptr in spec)
+        apply (clarsimp simp: sc_at_pred_n_def obj_at_def)
+       apply (erule (1) sc_replies_relation_prevs_list)
+       apply (clarsimp simp: obj_at'_real_def ko_wp_at'_def projectKO_sc)
+      apply (erule (1) sc_replies_relation_scReply[symmetric])
+      apply (clarsimp simp: obj_at'_real_def  ko_wp_at'_def projectKO_sc)
+     apply wpsimp+
+  done
+
+lemma valid_tcb_state_BlockedOnReply[simp]:
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3527]: nitpick: move to ainvs

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -3156,6 +3156,461 @@ lemma maybeReturnSc_corres:
...
+lemma replyPush_corres:
+  "can_donate = can_donate' \<Longrightarrow>
+   corres dc (invs and tcb_at caller and tcb_at callee and reply_at reply_ptr
+              and (\<lambda>s. \<forall>x. sc_replies_sc_at (\<lambda>a. reply_ptr \<notin> set a) x s))
+             (valid_tcbs' and valid_release_queue and valid_release_queue')
+   (reply_push caller callee reply_ptr can_donate)
+   (replyPush caller callee reply_ptr can_donate')"
+  unfolding reply_push_def replyPush_def
+  apply (clarsimp simp: )
+  apply add_sym_refs
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3564]: I don't remember the exact details, but it might also help to use `add_valid_replies` here.

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -4005,7 +4452,8 @@ crunches replyPush
   and tcb_at'[wp]: "tcb_at' t"
   and cte_wp_at'[wp]: "cte_wp_at' P p"
   and ctes_of[wp]: "\<lambda>s. P (ctes_of s)"
-  (wp: crunch_wps hoare_vcg_all_lift valid_irq_node_lift simp: crunch_simps valid_mdb'_def)
+  (wp: crunch_wps hoare_vcg_all_lift valid_irq_node_lift simp: crunch_simps valid_mdb'_def
+       bindScReply_def)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4456]: Unfolding `bindScReply_def` in a crunch seems strange to me, especially without also ignoring it. What happens if you don't have it?

File: proof/refine/ARM/Ipc_R.thy [hunk 11]
```diff
@@ -4016,91 +4464,70 @@ crunches rescheduleRequired, scheduleTCB
...
-  and ex_nonz_cap_to'[wp]: "ex_nonz_cap_to' p"
-  and valid_queues[wp]: "valid_queues"
-  (wp: crunch_wps hoare_vcg_all_lift simp: crunch_simps)
-
-lemma replyPush'_valid_objs'[wp]:
-  "replyPush' callerPtr calleePtr replyPtr canDonate scPtrOptDonated scPtrOptCallee \<lbrace>valid_objs'\<rbrace>"
-  apply (solves wp | simp (no_asm_use) add: replyPush'_def split del: if_split cong: conj_cong |
-         wp hoare_when_wp haskell_assert_wp hoare_vcg_if_lift hoare_vcg_all_lift
+lemma obj_at'_const:
+  "obj_at' (\<lambda>_. P) t s \<Longrightarrow> P"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4471]: This seems like it could be a `simp` rule to me, and also moved earlier.

File: proof/refine/ARM/Ipc_R.thy [hunk 12]
```diff
@@ -4016,91 +4464,70 @@ crunches rescheduleRequired, scheduleTCB
...
+  by (erule obj_atE'; simp)
+
+lemma bindScReply_valid_objs'[wp]:
+  "bindScReply y replyPtr  \<lbrace>valid_objs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4475]: nitpick: extra space

File: proof/refine/ARM/Ipc_R.thy [hunk 13]
```diff
@@ -4109,101 +4536,298 @@ lemma replyPush_sch_act_wf:
...
+                    opt_map_Some_def obj_at'_def projectKO_eq get_refs_def
+              elim: delta_sym_refs split: if_splits)[1]
+
+crunches setThreadState, setReplyTCB
+  for obj_at'_sc[wp]: "\<lambda>s. Q (obj_at' (P :: sched_context \<Rightarrow> bool) scp s)"
+  (wp: crunch_wps)
+
+lemma setReplyTCB_obj_at'_inv:
+  "(\<forall>x f. P (replyTCB_update f x) = P x) \<Longrightarrow>
+   setReplyTCB f g \<lbrace>\<lambda>s. Q (obj_at' (P :: reply \<Rightarrow> bool) rp s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4560]: nitpick: move earlier, maybe Reply_R.thy

File: proof/refine/ARM/Ipc_R.thy [hunk 14]
```diff
@@ -4109,101 +4536,298 @@ lemma replyPush_sch_act_wf:
...
+  apply (subgoal_tac "obj_at' P rp s = (obj_at' P rp (s\<lparr>ksPSpace := ksPSpace s(g \<mapsto> KOReply (replyTCB_update (\<lambda>_. f) ko))\<rparr>))")
+   apply simp
+  apply (force simp: obj_at'_real_def ko_wp_at'_def objBitsKO_def ps_clear_def
+                    projectKO_reply)
+  done
+
+lemma valid_replies'_no_tcb_not_linked:
+  "\<lbrakk>obj_at' (\<lambda>ko. replyTCB ko = None) replyPtr s;
+    valid_replies' s; valid_replies'_sc_asrt replyPtr s\<rbrakk>
+    \<Longrightarrow> obj_at' (\<lambda>ko. replyPrev ko = None \<and> replyNext ko = None) replyPtr s"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4572]: nitpick: move to the other valid_replies' lemmas in Invariants_H.thy

File: proof/refine/ARM/Ipc_R.thy [hunk 15]
```diff
@@ -4109,101 +4536,298 @@ lemma replyPush_sch_act_wf:
...
+        apply (simp (no_asm_use) add: getReplyTCB_def split del: if_split
+               | wp hoare_vcg_all_lift hoare_vcg_disj_lift hoare_vcg_imp_lift'
+                    hoare_vcg_if_lift setReply_obj_at' setReplyTCB_obj_at'
+               | rule threadGet_wp)+
+  apply clarsimp
   done
 
+crunches setThreadState, setReplyTCB
+  for obj_at'_sc[wp]: "\<lambda>s. Q (obj_at' (P :: sched_context \<Rightarrow> bool) scp s)"
+  (wp: crunch_wps)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4656]: This seems to have been duplicated, I think you also have it earlier in this file.

File: proof/refine/ARM/Ipc_R.thy [hunk 16]
```diff
@@ -4109,101 +4536,298 @@ lemma replyPush_sch_act_wf:
...
+  done
+
+crunches setReplyTCB
+  for valid_idle'[wp]: valid_idle'
+
+(* This is a true weakest precondition, or at least very close *)
+lemma updateReply_valid_pspace'[wp]:
+  "\<lbrace>valid_pspace' and (\<lambda>s. \<forall>ko. ko_at' ko replyPtr s \<longrightarrow> valid_reply' (f ko) s)\<rbrace>
+   updateReply replyPtr f
+   \<lbrace>\<lambda>_. valid_pspace'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4721]: Unfortunately, this will have a much more complicated precondition after I add `valid_replies'` to `invs'`. That's a problem for a later commit though.

**Review by corlewis — APPROVED** [review]
Awesome work! As I've previously said, this should make the current `replyPush` lemma I've been trying to prove much easier.

File: proof/invariant-abstract/RealTime_AI.thy [hunk 17]
```diff
@@ -1116,7 +1116,7 @@ lemma reply_push_st_tcb_at[wp]:
   "\<lbrace>st_tcb_at P t and K (t \<noteq> caller) and K (t \<noteq> callee)\<rbrace>
      reply_push caller callee reply_ptr can_donate
    \<lbrace>\<lambda>rv. st_tcb_at P t\<rbrace>"
-  by (wpsimp simp: reply_push_def update_sk_obj_ref_def get_thread_state_def
+  by (wpsimp simp: reply_push_def bind_sc_reply_def update_sk_obj_ref_def get_thread_state_def
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/invariant-abstract/RealTime_AI.thy:1119]: Exactly. Yes, if you think it's ok to look like this for now, I'll write a JIRA issue for it.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 18]
```diff
@@ -34,51 +34,34 @@ This module specifies the behavior of reply objects.
...
+>     scReplyOpt <- return $ scReply sc
+>     when (scReplyOpt /= Nothing) $ do
+>         scReplyPtr <- return $ fromJust scReplyOpt
+>         scReply <- getReply scReplyPtr
+>         setReply scReplyPtr (scReply { replyNext = Just (Next replyPtr) })
+>     reply <- getReply replyPtr
+>     setReply replyPtr (reply { replyPrev = scReplyOpt })
+>     setSchedContext scPtr (sc { scReply = Just replyPtr })
+>     reply <- getReply replyPtr
+>     setReply replyPtr (reply { replyNext = Just (Head $ scPtr) })
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/Reply.lhs:49]: Yes, it is structured this way to make the corres proofs easier but it perhaps makes the wp proofs harder. In this case because the state-relation is highly non-trivial (different models of reply queues) I think it's better to try and make all the different specs have clearly corresponding commands and not to reorder anything. This way we don't have to do so many monadic rewrites or make any complicated arguments about why reorderings are safe. This is just my general preference though, so happy to try another path if there is a need to.

File: proof/refine/ARM/Ipc_R.thy (hunk 10 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4456]: Good point, I'll check it out!

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 18 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/Reply.lhs:49]: We have `updateReply`. I think we should be using it here instead of the `getReply`/`setReply` pair. I agree that we need to do the updates step by step because each of `prev`/`next` updates can have different semantics, and it is a pain having to separate bundled updates depending the cases. But I don’t think there is much reason not to use `updateReply`.

File: proof/refine/ARM/Ipc_R.thy (hunk 4 above)
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:3216]: This is basically the same as one of the lemmas in my misc lemma PR (or an instantiation of it) and the name comes from there, I think...

File: proof/refine/ARM/Ipc_R.thy (hunk 5 above)
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:3304]: This one also exists in my misc lemma PR (though different name), and this one is now merged as part of the sym_heap PR (and it’s in Heap_List.thy :) ).

File: proof/refine/ARM/Ipc_R.thy (hunk 4 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:3216]: This is actually stronger because the preconditions are weaker (we don't need to show that R' holds for all sc's, only for the sc and sc' that are being modified). But otherwise this is exactly Miki's existing lemma.

File: spec/haskell/src/SEL4/Object/Reply.lhs (hunk 18 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/Reply.lhs:49]: Cheers. I'll start making that change.

**Comment by MitchellBuckley** [comment]
Thank you for the comments on this! This work has evolved quite a lot so I will decline this PR in favour of a new one (https://github.com/seL4/l4v/pull/178).
